US08293754B2
Ethyl 3-benzyl-2,5-dimethyl-4-oxo-3,4-dihydrothieno[2,3-d]-pyrimidine-6-carboxylate
A mixture of 252 mg of ethyl 2,5-dimethyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate, 138 mg of potassium carbonate, 15 mL of acetonitrile and 1 mL of benzyl chloride was heated under reflux overnight. After condensing the reaction mixture under reduced pressure, the residue was purified on silica gel column chromatography (chloroform:methanol=100:1) to provide 153 mg (45%) of the title compound.

reactant | ethyl 2,5-dimethyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate | 252 mg | CC=1NC(C2=C(N1)SC(=C2C)C(=O)OCC)=O | C11H12N2O3S
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 1 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | Ethyl 3-benzyl-2,5-dimethyl-4-oxo-3,4-dihydrothieno[2,3-d]-pyrimidine-6-carboxylate | 153 mg, 45% | C(C1=CC=CC=C1)N1C(=NC2=C(C1=O)C(=C(S2)C(=O)OCC)C)C | C18H18N2O3S
